US08110687B2
To a 2 L 3 neck round bottom flask fitted with a mechanical stirrer, was added N-(4-methoxybenzyl)-4-nitropyridin-2-amine 1-oxide (38.72 g, 0.14 mol) and chloroform (580 mL). The reaction mixture was cooled to 0° C. and phosphorus trichloride (36.8 mL, 0.42 mol) was added dropwise. The reaction mixture was allowed to warm to rt and stir overnight. The reaction mixture was filtered and the resulting solid was slurried with hexanes and filtered (repeated several times) to afford N-(4-methoxybenzyl)-4-nitropyridin-2-amine (39.34 g, 102%) as a yellow solid. LCMS: (FA) ES+ 260.3.

reactant | N-(4-methoxybenzyl)-4-nitropyridin-2-amine 1-oxide | 0.14 mol, 38.72 g | COC1=CC=C(CNC=2[N+](=CC=C(C2)[N+](=O)[O-])[O-])C=C1 | C13H13N3O4
reactant | phosphorus trichloride | 0.42 mol, 36.8 mL | P(Cl)(Cl)Cl | Cl3P
solvent | chloroform | 580 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(4-methoxybenzyl)-4-nitropyridin-2-amine | 39.34 g, 102% | COC1=CC=C(CNC2=NC=CC(=C2)[N+](=O)[O-])C=C1 | C13H13N3O3
